US07541366B2
2-(2,3-dimethyl-1H-pyrrolo[3,2-c]pyridin-7-yl)-1,2,3,4-tetrahydroisoquinoline hydrochloride
2-(4-Nitropyridin-3-yl)-1,2,3,4-tetrahydroisoquinoline (2.0 g, 7.835 mmol) prepared in Preparation 2 was dissolved in anhydrous tetrahydrofuran (100 ml) under a nitrogen atmosphere. 1-Methyl-1-propenyl magnesium bromide (0.5M in tetrahydrofuran solution, 9.4 ml) was added at −78° C. to the solution, which was then stirred for 20 minutes at the same temperature. 10 ml of 20% ammonium chloride solution was added to the reaction mixture, which was then extracted with ethyl acetate (100 ml) twice. The separated organic layer was dried on anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified with silica gel column chromatography (methylene chloride/methanol=10/1 (v/v)), dissolved in 5 ml of ethyl acetate and then saturated with hydrochloric acid gas. The resulting precipitate was filtered to give the titled compound as a white solid (850 mg, 19.5%).

reactant | 2-(4-Nitropyridin-3-yl)-1,2,3,4-tetrahydroisoquinoline | 7.835 mmol, 2.0 g | [N+](=O)([O-])C1=C(C=NC=C1)N1CC2=CC=CC=C2CC1 | C14H13N3O2
reactant | 1-Methyl-1-propenyl magnesium bromide | 0.5M, 9.4 ml | CC(=CC)[Mg]Br
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(2,3-dimethyl-1H-pyrrolo[3,2-c]pyridin-7-yl)-1,2,3,4-tetrahydroisoquinoline hydrochloride | 850 mg, 19.5% | Cl.CC1=C(C=2C=NC=C(C2N1)N1CC2=CC=CC=C2CC1)C | InChI=1S/C18H19N3.ClH/c1-12-13(2)20-18-16(12)9-19-10-17(18)21-8-7-14-5-3-4-6-15(14)11-21;/h3-6,9-10,20H,7-8,11H2,1-2H3;1H
